US04625026
2-amino-5, 6, 7, 8, 9, 10-hexahydrocycloocta (d) pyrimidin-4-ol
A mixture of ethyl-2-cyclooctanone carboxylate (3.5 g) and guanidine carbonate (3.82 g) in xylene (50 ml) was refluxed overnight; after cooling the white solid was collected by filtration, washed with water, and dried to yield 2.0 g of product.

reactant | guanidine carbonate | 3.82 g | C(O)(O)=O.NC(=N)N
reactant | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-amino-5, 6, 7, 8, 9, 10-hexahydrocycloocta (d) pyrimidin-4-ol | 2.0 g | NC=1N=C(C2=C(N1)CCCCCC2)O | C10H15N3O
